US08912338B2
Preparation of ethyl 1-((methylsulfonyloxy)methyl)cyclopropanecarboxylate
Triethylamine (990 μL, 7.1 mmol, 1.2 equiv) and methanesulfonyl chloride (500 μL, 6.5 mmol, 1.1 equiv) were sequentially added to a stirred solution of ethyl 1-(hydroxymethyl)cyclopropanecarboxylate (840 mg, 5.7 mmol, 1.0 equiv) in dichloromethane (15 mL) at 23° C. The resulting bright yellow solution was stirred at 23° C. for 20 h. The reaction mixture was diluted with water (100 mL) and extracted with dichloromethane (3×50 mL). The combined organic layers were dried (MgSO4), gravity-filtered, and concentrated by rotary evaporation to afford the title compound as a brown oil (1.1 g, 85%): 1H NMR (300 MHz, CDCl3) δ 4.33 (s, 2H), 4.16 (q, J=7 Hz, 2H), 3.08 (s, 3H), 1.43 (dd, J=7, 4 Hz, 2H), 1.26 (t, J=7 Hz, 3H), 1.04 (dd, J=7, 4 Hz, 2H).

reactant | Triethylamine | 7.1 mmol, 990 μL, 1.2 equiv | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.5 mmol, 500 μL, 1.1 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 1-(hydroxymethyl)cyclopropanecarboxylate | 5.7 mmol, 840 mg, 1.0 equiv | OCC1(CC1)C(=O)OCC | C7H12O3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | ethyl 1-((methylsulfonyloxy)methyl)cyclopropanecarboxylate | 1.1 g, 85% | CS(=O)(=O)OCC1(CC1)C(=O)OCC | C8H14O5S
